* source SE-211-DRIVER
V_V1         N14612 0 300V
R_R1         N14612 N14772  470R TC=0,0 
R_R2         N14754 N14685  1k TC=0,0 
R_R3         0 N14754  100k TC=0,0 
R_R4         0 N14702  1k TC=0,0 
C_C1         0 N14702  220uF  TC=0,0 
C_C2         N14653 N14660  0.47uF  TC=0,0 
R_R5         0 N14653  100k TC=0,0 
X_VL1         N14660 N14685 N14702 6SN7
X_VL2         N14660 N14685 N14702 6SN7
V_V2         N14754 0  AC 1V
+SIN 0V 1V 1kHz 0 0 0
R_R6         N14660 N14772  27k TC=0,0 
R_R7         N14660 N14772  27k TC=0,0 
R_R8         0 N14702  1k TC=0,0 
